* E:\IRGoKartTimingGate\LogicBoard.asc
* Generated by LTspice 24.1.4 for Windows.
I1 N004 0 PULSE(5uA 5.5uA 0 0 0 .0005 .001)
C2 N004 0 4pF
R3 N005 N004 2Meg
C1 N005 N004 10pF
V1 N002 0 5V
R1 N002 N001 12k
R2 N001 0 220
C3 N003 N005 10µF
X§U2 NC_01 NC_02 NC_03 NC_04 NC_05 OPA2333
R5 0 N003 10k
R4 N003 N002 10k
C4 0 N001 1µF
X§U1 N001 N004 N002 0 N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.lib OPA2333.lib
.tran 0 100ms 0ms
.lib UniversalOpAmp1.lib
.backanno
.end
